US07598264B2
Step 7: Methyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide
To a solution of methyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (0.509 g, 1.541 mmol) in acetic acid (2 mL) was added hydrogen peroxide (35% wt % in H2O, 0.262 g, 7.705 mmol). The reaction mixture was heated to 100° C. for 1 hour. The product mixture was concentrated under vacuum and purified by reverse phase HPLC eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound as a yellow solid.

reactant | methyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 1.541 mmol, 0.509 g | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OC)O)=O)C=C1 | C17H15FN2O4
reactant | hydrogen peroxide | 7.705 mmol, 0.262 g | OO | H2O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | Methyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide | FC1=CC=C(CN2C(C3=C(C=[N+](C(=C3CC2)C(=O)OC)[O-])O)=O)C=C1 | C17H15FN2O5
